US08859756B2
a) Preparation of (2S)-neopentyl 2-(((naphthalen-1-yloxy)(perfluorophenoxy)phosphoryl)amino)propanoate (136), as its diastereomeric mixture, chiral separation into two pure diastereomers 136a (fast-moving diastereomer) and 136b (slow-moving diastereomer)
α-Naphthyl phosphorodichloridate (10.0 g, 38.46 mmol) was dissolved in 40 mL of dry dichloromethane and subsequently cooled to 0° C. After addition of solid (L)-alanine neopentyl ester p-toluenesulfonic acid salt (12.7 g, 38.46 mmol), the reaction mixture was cooled to −70° C. and then treated with triethylamine (11.2 mL, 77.0 mmol) dissolved in 50 mL of dry DCM. The resulting mixture was stirred for 30 min at this temperature before being allowed to warm to 0° C. Subsequently, a preformed solution of pentafluorophenol (7.07 g, 38.46 mmol) and triethylamine (5.9 mL, 42.32 mmol) dissolved in 20 mL of dry DCM was added over 5-10 min and was continued stirring for additional 2 h. The solution was filtered and the filtrate was concentrated under reduced pressure. The resulting residue was suspended in 50 mL of TBME and stirred for 10 min at room temperature. Subsequent filtration removed more triethylamine hydrochloride and yielded a filtrate that was again stripped of its solvent under reduced pressure. Column chromatography (dichloromethane) yielded the desired product (14.7 g, 72% yield) as solid diastereomeric mixture.

reactant | α-Naphthyl phosphorodichloridate | 38.46 mmol, 10.0 g | P(OC1=CC=CC2=CC=CC=C12)(=O)(Cl)Cl | C10H7Cl2O2P
reactant | (L)-alanine neopentyl ester p-toluenesulfonic acid salt | 38.46 mmol, 12.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C(C)(C)C)OC([C@@H](N)C)=O
reactant | triethylamine | 77.0 mmol, 11.2 mL | C(C)N(CC)CC | C6H15N
reactant | pentafluorophenol | 38.46 mmol, 7.07 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | triethylamine | 42.32 mmol, 5.9 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (2S)-neopentyl 2-(((naphthalen-1-yloxy)(perfluorophenoxy)phosphoryl)amino)propanoate | 14.7 g, 72% yield | C1(=CC=CC2=CC=CC=C12)OP(=O)(OC1=C(C(=C(C(=C1F)F)F)F)F)N[C@H](C(=O)OCC(C)(C)C)C | C24H23F5NO5P
